US07432289B2
2-Chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide and dimethylamine (40% in water) in DMF (1 ml) were heated at 85° C. for 96 h in a sealed tube. The reaction mixture was concentrated under vacuum, purified by preparative HPLC and the product fractions reduced to dryness under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(dimethylamino)isonicotinamide. NMR; δH [2H6]—DMSO 10.29,(1H, s), 8.62,(1H, t), 8.22,(1H, d), 7.93,(2H, d), 7.70,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.03,(1H, s), 6.99,(1H, d), 3.16,(2H, t), 3.07,(6H, s), 2.20,(3H, s), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.88 min, MH+429.

reactant | 2-Chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | dimethylamine | CNC | C2H7N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(dimethylamino)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N(C)C)=O | C26H28N4O2
